US08486953B2
Preparation of 3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine
To a stirred solution of tetrahydro-2H-pyran-4-ol (2.5 g, 24.5 mmol) in anhydrous THF (20 mL) at 0° C. was added sodium hydride (60% dispersion in oil, 0.938 g, 24.5 mmol) and the mixture stirred at 0° C. for 0.5 h. A solution of 2-fluoro-3-nitro-pyridine (3.3 g, 23.2 mmol) in anhydrous THF (5 mL) was added drop wise with stirring and the solution allowed to warm to ambient temperature over 5 hours. The reaction was cooled in an ice-bath and water (50 mL) added. The mixture was extracted with EtOAc (2×100 mL) and the combined organic layers washed with brine (50 mL), dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified flash column chromatography (20% iso-hexane/DCM DCM) to yield the title compound as pale yellow oil (2.67 g, 48% yield).

reactant | tetrahydro-2H-pyran-4-ol | 24.5 mmol, 2.5 g | O1CCC(CC1)O | C5H10O2
reactant | sodium hydride | 24.5 mmol, 0.938 g | [H-].[Na+]
reactant | 2-fluoro-3-nitro-pyridine | 23.2 mmol, 3.3 g | FC1=NC=CC=C1[N+](=O)[O-] | C5H3FN2O2
reactant | water | 50 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-nitro-2-(tetrahydro-2H-pyran-4-yloxy)pyridine | 2.67 g, 48% yield | [N+](=O)([O-])C=1C(=NC=CC1)OC1CCOCC1 | C10H12N2O4
